US09303000B2
In 3-neck 100 mL RBF, (Z)-isopropyl 3-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)acrylate (1.0 g, 1 eq.) was mixed with THF-Water (1:1) (20 mL, 20 Vol.) and LiOH (0.288 g, 2.0 eq.) was added. The reaction mixture was stirred at RT for 2-3 h. Reaction completion was monitored on TLC using neat ethyl acetate as mobile phase. Reaction mixture was quenched into the ice-water slurry (50 mL) and acidified with approximately 5 N HCl to 4 PH. Compound was extracted in the ethylacetate (50 mL×3) and organic layer was washed with brine solution (50 mL×3) followed by drying using anhydrous sodium sulphate. Organic layer was concentrated under reduced pressure to afford 0.7 g of pure (Z)-3-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)acrylic acid. Yield (81.8%). LC/MS: 250.0

reactant | (Z)-isopropyl 3-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)acrylate | 1.0 g, 1 eq. | ClC=1C=C(C=CC1)C1=NN(C=N1)\C=C/C(=O)OC(C)C | C14H14ClN3O2
reactant | THF Water | 20 mL | C1CCOC1.O
reactant | LiOH | 0.288 g, 2.0 eq. | [Li+].[OH-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-3-(3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.7 g | ClC=1C=C(C=CC1)C1=NN(C=N1)\C=C/C(=O)O | C11H8ClN3O2
